US05260309
N-t-Butyldiphenylsilyl-α,4-dimethyl-benzenemethanamine
To a solution of racemic α,4-dimethyl-benemethanamine (4.00 g, 30.0 mmol) and triethylamine (6.1 mL, 43.8 mmol) in acetonitrile (100 mL) in a flame-dried flask under nitrogen was added dropwise t-butylchlorodiphenylsilane (7.7 mL, 29.6 mmol). The mixture was stirred at room temperature overnight and then filtered to remove the insoluble white precipitate (triethylamine hydrochloride). After removal of the solvent in vacuo, the crude product was taken up in ether and washed sequentially with H2O, saturated NaHCO3 solution and brine. The solution was dried (Na2SO4 /K2CO3) and concentrated to leave a clear oil which was distilled under high vacuum. The major fraction consisting of the title compound (6.7 g, 60%) distilled from 134° to 165° C. at 0.1 mm Hg.

reactant | triethylamine | 43.8 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
reactant | t-butylchlorodiphenylsilane | 29.6 mmol, 7.7 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-t-Butyldiphenylsilyl-α,4-dimethyl-benzenemethanamine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)NC(C1=CC=C(C=C1)C)C | C25H31NSi
